US04374984
45 g of bis-(trimethylsilyl)-acetamide, 500 ml of toluene and 500 ml of pyridine are added to 39 g of 2,7-bis-(2-hydroxy-2-methyl-propanoyl)-fluorenone, and the mixture is boiled for 24 hours. It is then concentrated and the residue is crystallized from toluene. 2,7-bis-(2-Trimethylsilyloxy-2-methyl-propanoyl)-fluorenone is obtained; m.p. 128°-129°.

reactant | bis-(trimethylsilyl)-acetamide | 45 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2,7-bis-(2-hydroxy-2-methyl-propanoyl)-fluorenone | 39 g | OC(C(=O)C=1C(C2=CC3=CC(=CC=C3C2=CC1)C(C(C)(O)C)=O)=O)(C)C | C21H20O5
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | 2,7-bis-(2-Trimethylsilyloxy-2-methyl-propanoyl)-fluorenone | C[Si](OC(C(=O)C=1C(C2=CC3=CC(=CC=C3C2=CC1)C(C(C)(O[Si](C)(C)C)C)=O)=O)(C)C)(C)C | C27H36O5Si2
